US08557801B2
2-m-tolyl-N-p-tolyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-3-amine
Example 266 was synthesized by the following way: to a 100-mL round-bottom flask, was placed a solution of pyrazin-2-amine (1.2 g, 12.6 mmol), 3-methylbenzaldehyde (1.44 g, 12.0 mmol) and HClO4 (200 mg, 2.0 mmol) in methanol (10 mL). The reaction mixture was stirred at room temperature for 30 minutes, then to the mixture was added 1-isocyano-4-methylbenzene (1.2 g, 10.3 mmol). The resulting solution was allowed to stir for 12 hr at room temperature. After removing the solvent, the residue was applied onto a silica gel column with dichloromethane/methanol (10:1) to result 1.1 g the Ugi adduct. To a solution of the obtained Ugi adduct (1.0 g, 3.18 mmol) in methanol (50 mL) was added PtO2 (72 mg, 0.32 mmol). Then the reaction mixture was evacuated and back filled with H2. The reaction mixture was stirred at RT overnight. The solid was filtered out and the filtrate was concentrated under vacuum to result in the title compound as a white solid.

reactant | pyrazin-2-amine | 12.6 mmol, 1.2 g | N1=C(C=NC=C1)N | C4H5N3
reactant | 3-methylbenzaldehyde | 12.0 mmol, 1.44 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | 1-isocyano-4-methylbenzene | 10.3 mmol, 1.2 g | [N+](#[C-])C1=CC=C(C=C1)C | C8H7N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
catalyst | PtO2 | 0.32 mmol, 72 mg | O=[Pt]=O
product | 2-m-tolyl-N-p-tolyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-3-amine | C1(=CC(=CC=C1)C=1N=C2N(CCNC2)C1NC1=CC=C(C=C1)C)C | C20H22N4
